US04352929
The carboxylic acid, 3-[[[(pentafluorophenyl)amino]thioxomethyl]thio]propionic acid (500 mg., 1.51 mmol) is dissolved in acetic anhydride (5 ml.) to give a bright yellow solution. A drop of conc. H2SO4 is added and the solution heated on a steam bath for 2-3 minutes. On cooling, crystals separated, which are recrystallized from ethanol to give pure 3-(pentafluorophenyl)tetrahydro-2-thioxo-4H-1,3-thiazin-4-one as bright yellow translucent crystals (320 mg.) m.p. 163.5°-164.5°.

reactant | 3-[[[(pentafluorophenyl)amino]thioxomethyl]thio]propionic acid | 1.51 mmol, 500 mg | FC1=C(C(=C(C(=C1NC(SCCC(=O)O)=S)F)F)F)F | C10H6F5NO2S2
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-(pentafluorophenyl)tetrahydro-2-thioxo-4H-1,3-thiazin-4-one | FC1=C(C(=C(C(=C1N1C(SCCC1=O)=S)F)F)F)F | C10H4F5NOS2
